### PR TITLE
[Merged by Bors] - feat: characterization of `List.splitBy`

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #30892

Moved from #16837.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Flatten.lean [hunk 1]
```diff
@@ -56,17 +56,17 @@ theorem head_flatten_eq_head_head {l : List (List α)} (hl : l.flatten ≠ [])
     (hl' : l.head (by grind) ≠ []) : l.flatten.head hl = (l.head (by grind)).head hl' :=
   (head_head_eq_head_flatten ..).symm
 
-/-- See also `getLast_flatten_of_flatten_ne_nil`, which switches around the proof obligations. -/
-theorem getLast_flatten_of_getLast_ne_nil {l : List (List α)}
+/-- See also `getLast_flatten_eq_getLast_getLast`, which switches around the proof obligations. -/
```
Comment (vihdzp) [inline Mathlib/Data/List/Flatten.lean:62]: Sorry, I think I forgot to flip and rename these back in #30892.

Comment (Ruben-VandeVelde) [reply Mathlib/Data/List/Flatten.lean:62]: Please add deprecations

File: Mathlib/Data/List/SplitBy.lean [hunk 2]
```diff
@@ -55,6 +56,15 @@ theorem flatten_splitBy (r : α → α → Bool) (l : List α) : (l.splitBy r).f
...
 
+@[simp]
+theorem splitBy_eq_nil {r : α → α → Bool} {l : List α} : l.splitBy r = [] ↔ l = [] := by
+  have := flatten_splitBy r l
+  refine ⟨fun _ ↦ ?_, ?_⟩ <;> simp_all
+
+theorem splitBy_ne_nil {r : α → α → Bool} {l : List α} : l.splitBy r ≠ [] ↔ l ≠ [] :=
+  splitBy_eq_nil.not
+
+set_option backward.privateInPublic true in
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/SplitBy.lean]: What is this for? Please ask on zulip if needed

File: Mathlib/Data/List/SplitBy.lean [hunk 3]
```diff
@@ -137,6 +156,87 @@ theorem isChain_getLast_head_splitBy (r : α → α → Bool) (l : List α) :
...
+    m.splitBy r = l ↔ m = l.flatten ∧ [] ∉ l ∧ (∀ m ∈ l, m.IsChain fun x y ↦ r x y) ∧
+      l.IsChain fun a b ↦ ∃ ha hb, r (a.getLast ha) (b.head hb) = false := by
+  constructor
+  · rintro rfl
+    exact ⟨(flatten_splitBy r m).symm, nil_notMem_splitBy r m, fun _ ↦ isChain_of_mem_splitBy,
+      isChain_getLast_head_splitBy r m⟩
+  · rintro ⟨rfl, hn, hc, hc'⟩
+    exact splitBy_flatten hn hc hc'
+
+theorem splitBy_append {r : α → α → Bool} {l : List α}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/SplitBy.lean]: Hmm, it feels a bit strange that `m` ends up before `l` in the arguments. Not such a big deal because they're implicit, I guess, but perhaps worth changing anyway. 


```suggestion
theorem splitBy_append {r : α → α → Bool} {l m : List α}
```

File: Mathlib/Data/List/SplitBy.lean [hunk 4]
```diff
@@ -137,6 +156,87 @@ theorem isChain_getLast_head_splitBy (r : α → α → Bool) (l : List α) :
...
+    (ha : ∀ x ∈ l.getLast?, ∀ y ∈ m.head?, r x y = false) :
+    (l ++ m).splitBy r = l.splitBy r ++ m.splitBy r := by
+  obtain rfl | hl := eq_or_ne l []; · simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/SplitBy.lean]: I think it's more readable to put a new line rather than a semicolon (also below)

**Review by Ruben-VandeVelde — APPROVED** [review]
Looks good, thanks! 

maintainer delegate

File: Mathlib/Data/List/SplitBy.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Data/List/SplitBy.lean]: Not sure how that got there, I removed it without issue.

**Comment by j-loreaux** [comment]
bors merge
